US07842688B2
b) 2-(3-Bromopropoxy)-1-methoxy-3-methylbenzene
The mixture of 2.50 g of 2-methoxy-6-methylphenol, 3.75 g of potassium carbonate and 18.3 ml of 1,3-dibromopropane in 50 ml of acetonitrile is stirred at reflux with stirring over 16 hours. The reaction mixture is cooled, diluted with 200 ml of water and extracted with tert-butyl methyl ether (2×200 ml). The organic phases are washed successively with water (200 ml) and brine (200 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.59 (1:1 EtOAc-heptane); Rt=5.10.

reactant | 2-methoxy-6-methylphenol | 2.50 g | COC1=C(C(=CC=C1)C)O | C8H10O2
reactant | potassium carbonate | 3.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 18.3 ml | BrCCCBr | C3H6Br2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
product | 2-(3-Bromopropoxy)-1-methoxy-3-methylbenzene | BrCCCOC1=C(C=CC=C1C)OC | C11H15BrO2
